US05464864
Concentrated hydrochloric acid (4 ml) was added slowly, with cooling and stirring to 4-aminophenyl propionamide (0.80 g), maintaining the temperature below 5° C. To this slurry was added a solution of sodium nitrite (0.37 g) in water (2 ml), dropwise over 15 min, followed by stirring for a further 15 min. The turbid solution thus formed was added portionwise to a cooled, stirred solution of stannous chloride (2.19 g) in conclusion. HCl (4 ml), and the resulting mixture was stirred for 1 h. After filtering, the solution was reduced in volume until an inorganic precipitate formed. This was filtered off, and the filtrate was evaporated to dryness. The residual gum was crystallized from acetic acid to give crude 4-hydrazinophenyl propionamide hydrochloride (1.05 g).

reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | 4-aminophenyl propionamide | 0.80 g | NC1=CC=C(C=C1)C(C(=O)N)C | C9H12N2O
reactant | sodium nitrite | 0.37 g | N(=O)[O-].[Na+]
reactant | HCl | 4 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
product | 4-hydrazinophenyl propionamide hydrochloride | 1.05 g | Cl.N(N)C1=CC=C(C=C1)C(C(=O)N)C | InChI=1S/C9H13N3O.ClH/c1-6(9(10)13)7-2-4-8(12-11)5-3-7;/h2-6,12H,11H2,1H3,(H2,10,13);1H
